US06706709B2
A solution of 5-(2-tert-butoxycarbonyl-vinyl)-1H-indole-2-carboxylic acid ethyl ester (1.6 g, 5 mmol) in ethyl acetate (40 mL) and methanol (80 mL) was hydrogenated over 5% palladium on carbon (0.2 g) at room temperature for overnight. The catalyst was filtered off and the filtrate was concentrated to give 1.6 g (99%) of 5-(2-tert-butoxycarbonyl-ethyl)-1H-indole-2-carboxylic acid ethyl ester as a white solid. The solid was used in the next step without further purification.

reactant | 5-(2-tert-butoxycarbonyl-vinyl)-1H-indole-2-carboxylic acid ethyl ester | 5 mmol, 1.6 g | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)C=CC(=O)OC(C)(C)C | C18H21NO4
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 80 mL | CO | CH4O
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
product | 5-(2-tert-butoxycarbonyl-ethyl)-1H-indole-2-carboxylic acid ethyl ester | 1.6 g, 99% | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)CCC(=O)OC(C)(C)C | C18H23NO4
